US07399767B2
2-(6-Methoxy-pyridin-3-yl)-malonic acid diethyl ester
Sodium hydride (60%, 36.2 mmoL, 1.45 g) was added into a solution of 5-bromo-2-methoxy-pyridine (16.5 mmoL, 2.13 mL), copper(I) bromide (32.9 mmoL, 4.72 g) and diethyl malonate (32.9 mmoL, 5.0 mL) in 1,4-dioxlane (20 mL) slowly at room temperature. After the addition, the resulting mixture was heated to 100° C. and stirred overnight. The mixture was then passed through a pad of Celite to remove brown solid. The filtrate was then concentrated in vacuo to afford a brown oil, which was then purified by column chromatography using hexanes:ethyl acetate (4:1˜2:1 ratio) as eluent to afford the title compound as a slight yellow oil.

reactant | Sodium hydride | 1.45 g | [H-].[Na+]
reactant | 5-bromo-2-methoxy-pyridine | 2.13 mL | BrC=1C=CC(=NC1)OC | C6H6BrNO
reactant | diethyl malonate | 5.0 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
catalyst | copper(I) bromide | 4.72 g | [Cu]Br
product | 2-(6-Methoxy-pyridin-3-yl)-malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)C=1C=NC(=CC1)OC)=O | C13H17NO5
